US06015829
To a solution (15 ml) of ethyl 1-(3-cyano-4-(3-methylbutoxy)phenyl)pyrazole-4-carboxylate (1.6 g) in ethanol was added 1.5 N aqueous sodium hydroxide solution (4 ml) with stirring, and the mixture was heated at 80° C. for 30 minutes. After the completion of the reaction, the reaction mixture was poured into water and neutralized with acetic acid. The precipitated crystals were recrystallized from ethyl acetate to give 0.97 g of 1-(3-cyano-4-(3-methylbutoxy)phenyl)pyrazole-4-carboxylic acid, melting point 210-211° C.

reactant | ethyl 1-(3-cyano-4-(3-methylbutoxy)phenyl)pyrazole-4-carboxylate | 15 ml, 1.6 g | C(#N)C=1C=C(C=CC1OCCC(C)C)N1N=CC(=C1)C(=O)OCC | C18H21N3O3
reactant | sodium hydroxide | 1.5 N, 4 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-cyano-4-(3-methylbutoxy)phenyl)pyrazole-4-carboxylic acid | 0.97 g | C(#N)C=1C=C(C=CC1OCCC(C)C)N1N=CC(=C1)C(=O)O | C16H17N3O3
